### PR TITLE
[Merged by Bors] - feat(Polynomial): `(C a * p).degree = p.degree` if `a * p.leadingCoeff ≠ 0`

### PR DESCRIPTION
**Pull request by YaelDillies**
From GrowthInGroups (LeanCamCombi)

Co-authored-by: Andrew Yang

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 1]
```diff
@@ -94,6 +94,14 @@ theorem natDegree_C_mul_le (a : R) (f : R[X]) : (C a * f).natDegree ≤ f.natDeg
     _ = 0 + f.natDegree := by rw [natDegree_C a]
     _ = f.natDegree := zero_add _
 
+lemma degree_C_mul_le (r : R) (p : R[X]) : (C r * p).degree ≤ p.degree := by
+  by_cases hp : p = 0
+  · simp [hp]
+  by_cases hCp : C r * p = 0
+  · simp [hCp]
+  rw [degree_eq_natDegree hp, degree_eq_natDegree hCp]
+  simpa using natDegree_C_mul_le _ _
```
Comment (adomani) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean:103]:
```suggestion
lemma degree_C_mul_le (r : R) (p : R[X]) : (C r * p).degree ≤ p.degree :=
  (degree_mul_le _ _).trans <| add_le_of_nonpos_left degree_C_le
```

I believe that this might work.

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 2]
```diff
@@ -138,6 +146,13 @@ theorem natDegree_C_mul_eq_of_mul_ne_zero (h : a * p.leadingCoeff ≠ 0) :
   refine mem_support_iff.mpr ?_
   rwa [coeff_C_mul]
 
+lemma degree_C_mul_eq_of_mul_ne_zero (r : R) (p : R[X]) (h : r * p.leadingCoeff ≠ 0) :
+    (C r * p).degree = p.degree := by
+  by_cases hp : p = 0
+  · simp [hp]
+  rw [degree_eq_natDegree hp, degree_eq_natDegree, natDegree_C_mul_eq_of_mul_ne_zero h]
+  exact fun e ↦ h (by simpa using congr(($e).coeff p.natDegree))
```
Comment (adomani) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean:154]:
```suggestion
  rw [← zero_add p.degree, degree_mul', degree_C (left_ne_zero_of_mul h)]
  simpa
```
in case you prefer this form!

**Comment by adomani** [comment]
Thanks!

Feel free to accept the suggestions or merge as is!

bors d+

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Degree/Lemmas.lean:103]: You convinced me that this lemma wasn't useful to have

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/Degree/Lemmas.lean:154]: Found an even shorter proof

**Comment by YaelDillies** [comment]
bors merge
